US07135466B2
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methoxyaniline
Sodium hydride (60 wt %, 3.2 g) was added to dimethyl sulfoxide (50 ml), and the mixture was stirred at 50° C. for 20 min. 4-Amino-3-methoxyphenol (5.6 g) was added thereto, and the mixture was stirred at room temperature for 10 min. Next, 4-chloro-6,7-dimethoxyquinazoline (7.0 g) was added thereto, and the mixture was stirred at 100° C. overnight. Water was added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was then washed with a saturated aqueous sodium hydrogencarbonate solution and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. Methanol was added to the residue, and the precipitated crystal was collected by suction filtration to give the title compound (7.3 g, yield 72%).

reactant | Sodium hydride | 3.2 g | [H-].[Na+]
reactant | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
reactant | 4-Amino-3-methoxyphenol | 5.6 g | NC1=C(C=C(C=C1)O)OC | C7H9NO2
reactant | 4-chloro-6,7-dimethoxyquinazoline | 7.0 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | Water | O | H2O
product | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methoxyaniline | 7.3 g, yield 72% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(N)C=C1)OC | C17H17N3O4
